US09315530B2
Step 2: diethyl (2-(2-(2-(2-((3-amino-2-chloroquinolin-4-yl)amino)ethoxy)ethoxy)ethoxy)ethyl)phosphonate
To a solution of diethyl (2-(2-(2-(2-((2-chloro-3-nitroquinolin-4-yl)amino)ethoxy)ethoxy)ethoxy)ethyl)phosphonate (1 equiv.) in EtOAc (0.10 M) was added 10% PUC (5% equiv. by weight) and MgSO4 (2 equiv.) in a Paar Shaker Flask. The reaction mixture was placed in a Paar Shaker at 40 psi for 7 h. At this point the reaction mixture was passed through a pad of Celite, washing with a 2:1 mixture of CHCl3:MeOH. The combined organic layers were dried over anhydrous Na2SO4 and the volatiles were removed in vacuo. The resulting residue was purified by a COMBIFLASH™ system using a gradient of 0-10% MeOH/DCM to provide the title compound (97%) as a solid.

reactant | diethyl (2-(2-(2-(2-((2-chloro-3-nitroquinolin-4-yl)amino)ethoxy)ethoxy)ethoxy)ethyl)phosphonate | 1 equiv. | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])NCCOCCOCCOCCP(OCC)(OCC)=O | C21H31ClN3O8P
reactant | MgSO4 | 2 equiv. | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | EtOAc | 0.10 M | CCOC(=O)C | C4H8O2
product | diethyl (2-(2-(2-(2-((3-amino-2-chloroquinolin-4-yl)amino)ethoxy)ethoxy)ethoxy)ethyl)phosphonate | 97% | NC=1C(=NC2=CC=CC=C2C1NCCOCCOCCOCCP(OCC)(OCC)=O)Cl | C21H33ClN3O6P
